US05434174
To a solution of 2-(Di-n-propylamino)-8-iodo-1,2,3,4-tetrahydronaphthalene (4.3 g, 12.1 mmol), as prepared in co-pending U.S. application Ser. No. 07/653,583 triethylamine (100 ml) was added copper(I) iodide (228 mg), bis(triphenylphosphine)-palladium(II) chloride (841 mg) and trimethylsilylacetylene (1.7 ml). This mixture was stirred at room temperature overnight. The reaction was poured into water and extracted with ether. The extract was washed with brine, dried (Na2SO4), and concentrated to give 5 g of crude product. Purification by flash chromatography using 20:1 methylene chloride:methanol as solvent gave 4.33 g of 2-(di-n-propylamino)-8-(2-trimethylsilylethynyl)-1,2,3,4-tetrahydronaphthalene which was used in the next reaction.

reactant | 2-(Di-n-propylamino)-8-iodo-1,2,3,4-tetrahydronaphthalene | 12.1 mmol, 4.3 g | C(CC)N(C1CC2=C(C=CC=C2CC1)I)CCC | C16H24IN
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.7 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | copper(I) iodide | 228 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 841 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 2-(di-n-propylamino)-8-(2-trimethylsilylethynyl)-1,2,3,4-tetrahydronaphthalene | 4.33 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C#C[Si](C)(C)C)CCC | C21H33NSi
